US04846873
(2,2,2-Trifluoroethoxy)acetic acid
To a 3-neck 2-liter round-bottom flask equipped with a mechanical stirrer, reflux condenser and addition funnel was added sodium hydride (60% dispersion in mineral oil) (41.70 g, 1.043 moles) and 1000 ml of toluene under nitrogen. 2,2,2-Trifluoroethanol (52.02 g, 0.520 moles) was added dropwise and this mixture was stirred at room temperature for 0.5 hours. A solution of bromoacetic acid (72.45 g, 0.520 moles) in 100 ml of toluene was then added dropwise and the resulting mixture heated at reflux for 48 hours. After cooling the mixture to room temperature, water (250 ml) was added and the layers separated. The aqueous layer was washed with ether (3×75 ml) and then acidified to pH 1 with concentrated hydrochloric acid. The resulting mixture was extracted with ether (3×100 ml) and the combined extracts washed with saturated sodium chloride solution (1×75 ml), dried over magnesium sulfate and concentrated in vacuo to give a yellow oil. Distillation of this oil gave 31.6 g of the product as a colorless oil, bp 110°-118° C./16 mm.

reactant | sodium hydride | 1.043 moles, 41.70 g | [H-].[Na+]
reactant | 2,2,2-Trifluoroethanol | 0.520 moles, 52.02 g | FC(CO)(F)F | C2H3F3O
reactant | bromoacetic acid | 0.520 moles, 72.45 g | BrCC(=O)O | C2H3BrO2
reactant | water | 250 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | (2,2,2-Trifluoroethoxy)acetic acid | 31.6 g | FC(COCC(=O)O)(F)F | C4H5F3O3
